US05523475
3-Chloro-2-methoxy-5-trifluoromethylaniline
1-Chloro-2-methoxy-3-nitro-5-trifluoromethylbenzene (3.46 g, 13.5 mmol) was dissolved in MeOH (74 mL). Hydrochloric acid (2M, 13 mL, 26 mmol) and Pd/C (10%, 0.44 g) was added. Hydrogenation at atmospheric pressure and at room temperature for 1 h 30 min, filtration and evaporation of the solvent gave a crude product. Purification by flash chromatography (SiO2, CH2Cl2 -hexane 1:2 followed by EtOAc-NH3 100:0.1) yielded the title compound (3.08 g) as an oil. 1H NMR (CDCl3): 7.00 (J 1.8 Hz, 1H), 6.85 (d, J=1.95 Hz, 1H), 4.11 (br s, 2H), 3.87 (s, 3H). MS (EI, 70 eV): m/z (rel. int.) 227/225 (M+, 17/58).

reactant | 1-Chloro-2-methoxy-3-nitro-5-trifluoromethylbenzene | 13.5 mmol, 3.46 g | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])OC | C8H5ClF3NO3
reactant | Hydrochloric acid | 26 mmol, 2M, 13 mL | Cl | ClH
solvent | MeOH | 74 mL | CO | CH4O
catalyst | Pd/C | 0.44 g | [Pd] | Pd
product | 3-Chloro-2-methoxy-5-trifluoromethylaniline | 3.08 g | ClC=1C(=C(N)C=C(C1)C(F)(F)F)OC | C8H7ClF3NO
